### PR TITLE
Initial support for RISC-V 32 I M 

### LINKED ISSUE #698: Basic description of RISC-V ISA
Provide:

- riscv_desc.v
  - describe registers
  - generalize  ```eval_cond   : (rflag_t -> exec bool) -> cond_t -> exec bool``` so that it allows for reg arguments.
- riscv_instr_desc.v
  - ADD / ADDI as a unique definition with reg or imm possible arguments
  - SUB / SUBI
  - AND / ANDI
  - MOVE (```mv rd,rs addi rd,rs,0```) -> print ```mv``` as pseudoinstruction
  - LOAD WORD (```lw rd, imm(rs1)```)

### PR DESCRIPTION
**Pull request by clebreto**
Fixes #698 and #503 and #783.

### CODE REVIEW

**Comment by bgregoir** [comment]
Are we ready to start reviewing this branch ?

**Comment by clebreto** [comment]
> Are we ready to start reviewing this branch ?

Almost, more testing should be incorporated beforehand.

Let's hope we can make it by the end of the month.

**Comment by bgregoir** [comment]
Is it ready for review ?

**Comment by bgregoir** [comment]
It seems that the PR is ready, isn't it ?

**Comment by clebreto** [comment]
> It seems that the PR is ready, isn't it ?

We lack a proof in lowering.

File: compiler/src/help.ml [hunk 1]
```diff
@@ -17,7 +17,7 @@ let show_intrinsics asmOp fmt =
   let headers = [|
       "no size suffix";
       "one optional size suffix, e.g., “_64”";
-      "a zero/sign extend suffix, e.g., “_u32u16”";
+      "a zero/sign extend suffix, e.g., “_s16” or “_u32u16”";
```
Comment (vbgl) [inline compiler/src/help.ml:20]: This is surprising: does it mean that it is now possible to write `MOVSX_s16`?

File: default.nix [hunk 2]
```diff
@@ -64,6 +64,14 @@ stdenv.mkDerivation {
...
          angstrom
          batteries
+         ppxlib
+         ppx_import
+         ppx_sexp_conv
+         ppx_yojson_conv
+         ppx_deriving
+         sel
+         lsp
+         sexplib
```
Comment (vbgl) [inline default.nix:74]: Is this change really meant to be included in this PR?

File: proofs/compiler/riscv_instr_decl.v [hunk 3]
```diff
@@ -0,0 +1,513 @@
...
+
+Definition riscv_SRL_instr : instr_desc_t := RTypeInstruction riscv_srl_semi "SRL" "srl".
+Definition prim_SRL := ("SRL"%string, primM SRL).
+
+Definition riscv_SRLI_instr : instr_desc_t := ITypeInstruction riscv_srl_semi "SRLI" "srli".
+Definition prim_SRLI := ("SRLI"%string, primM SRLI).
+
+(*CHECKME*)
+Definition riscv_sra_semi (wn : ty_r) (wm : word U8) : exec ty_r := ok (wsar wn (wunsigned (wand wm (wrepr U8 31)))).
+
```
Comment (vbgl) [inline proofs/compiler/riscv_instr_decl.v:241]: Should this be checked before merging?

File: proofs/compiler/riscv_lower_addressing_proof.v [hunk 4]
```diff
@@ -0,0 +1,553 @@
...
+  have [vm3 hsem3 eq_vm3] := Hc tmp vm2 tmp_ty tmp_nin2 eq_vm2.
+  exists vm3 => //.
+  by apply (sem_app hsem2 hsem3).
+Qed.
+
+Local Lemma HmkI : sem_Ind_mkI p ev Pi_r Pi.
+Proof. done. Qed.
+
+(* TODO: move *)
+Lemma write_lval_eq_ex wdb gd X x v s1 s2 vm1 :
```
Comment (vbgl) [inline proofs/compiler/riscv_lower_addressing_proof.v:133]: This can be addressed before merging.

File: proofs/compiler/riscv_lower_addressing_proof.v [hunk 5]
```diff
@@ -0,0 +1,553 @@
...
+  xs = [:: Lmem al ws x e].
+Proof. by case: xs => [//|] [] // _ _ _ _ [] //= [-> -> -> ->]. Qed.
+
+Lemma is_one_PloadP es al ws x e :
+  is_one_Pload es = Some (al, ws, x, e) ->
+  es = [:: Pload al ws x e].
+Proof. by case: es => [//|] [] // _ _ _ _ [] //= [-> -> -> ->]. Qed.
+
+(* TODO: move *)
+Lemma sem_sopn_eq_ex X gd o xs es s1 s2 vm1 :
```
Comment (vbgl) [inline proofs/compiler/riscv_lower_addressing_proof.v:272]: Same here.

File: proofs/compiler/riscv_lower_addressing_proof.v [hunk 6]
```diff
@@ -0,0 +1,553 @@
...
+  by move: tmp_nin; rewrite read_Ii read_i_for; clear; SvD.fsetdec.
+Qed.
+
+Local Lemma Hfor_nil : sem_Ind_for_nil Pfor.
+Proof.
+  by move=> s i c tmp vm1 tmp_ty tmp_nin eq_vm1; exists vm1 => //; constructor.
+Qed.
+
+(* TODO: move *)
+Lemma write_var_eq_ex wdb X (x:var_i) v s1 s2 vm1 :
```
Comment (vbgl) [inline proofs/compiler/riscv_lower_addressing_proof.v:461]: Yet an other TODO.

File: proofs/compiler/riscv_lowering_proof.v [hunk 7]
```diff
@@ -0,0 +1,707 @@
...
+  psem
+  utils.
+Require Import
+  arch_extra
+  sem_params_of_arch_extra.
+Require Import
+  riscv_decl
+  riscv_extra
+  riscv_instr_decl
+  (* riscv_instr_decl_lemmas *)
```
Comment (vbgl) [inline proofs/compiler/riscv_lowering_proof.v:23]: Should this comment be removed?

File: proofs/compiler/riscv_params.v [hunk 8]
```diff
@@ -0,0 +1,277 @@
...
+
+End LINEARIZATION.
+
+
+(* ------------------------------------------------------------------------ *)
+(* Lowering parameters. *)
+Definition riscv_loparams : lowering_params lowering_options :=
+  {|
+    lop_lower_i _ _ _ := lower_i;
+    lop_fvars_correct := fun _ _ _ => true; (* FIXME RISCV: is this correct? *)
```
Comment (vbgl) [inline proofs/compiler/riscv_params.v:161]: Please fix this.

File: proofs/compiler/riscv_params_common_proof.v [hunk 9]
```diff
@@ -0,0 +1,286 @@
...
+  sem_fopn_args (RISCVFopn.align xi y al) s = ok (with_vm s vm').
+Proof.
+ Opaque wsize_size.
+ rewrite /=; t_xrbindP => *; t_riscv_op.
+ by rewrite /=.
+ Transparent wsize_size.
+Qed.
+
+(* FIXME try to remove the usage of this lemma, use sem_fopn_args version instead *)
+Lemma align_eval_instr {lp ls ii xname vi y al} {wy : word Uptr} :
```
Comment (vbgl) [inline proofs/compiler/riscv_params_common_proof.v:111]: Is this really a FIXME? If it is the case, then please fix it. Otherwise please change to TODO.

File: proofs/compiler/riscv_params_common_proof.v [hunk 10]
```diff
@@ -0,0 +1,286 @@
...
+  let: vm' := (lvm ls).[x <- wx'] in
+  eval_instr lp li ls = ok (next_vm_ls ls vm').
+Proof.
+  move=> h1; set vm := _.[ _ <- _].
+  apply (sem_fopn_args_eval_instr (ls:= ls) (s' := with_vm (to_estate ls) vm)).
+  by apply :  align_sem_fopn_args; rewrite h1 /= truncate_word_u.
+Qed.
+
+(* FIXME try to remove the usage of this lemma, use sem_fopn_args version instead *)
+Lemma sub_eval_instr {lp ls ii xname vi y z} {wy wz : word Uptr} :
```
Comment (vbgl) [inline proofs/compiler/riscv_params_common_proof.v:125]: Same here.

File: proofs/compiler/riscv_params_core_proof.v [hunk 11]
```diff
@@ -0,0 +1,383 @@
...
+  + lia. + lia.
+  rewrite -h1 {1}(Z_div_mod_eq_full hbs B).
+  have -> : (B * (B * (hbs / B) + hbs mod B) + lbs)%Z =
+            ( (B * (hbs mod B) + lbs) + (hbs / B) * (B * B) )%Z by ring.
+  rewrite Z_mod_plus_full Zmod_small //.
+  have := Z_mod_lt hbs B hB; nia.
+Qed.
+
+(* Lemma li_lsem_1 s xname vi imm :
+  let: (xi, x) := mkv xname vi in
```
Comment (vbgl) [inline proofs/compiler/riscv_params_core_proof.v:269]: This comment might be removed.

**Review by vbgl — COMMENTED** [review]
Thanks for this hard work. My comments are mostly cosmetic.

File: compiler/src/help.ml (hunk 1 above)
Comment (vbgl) [reply compiler/src/help.ml:20]: Any updates on this issue?

File: proofs/compiler/riscv_instr_decl.v (hunk 3 above)
Comment (bgregoir) [reply proofs/compiler/riscv_instr_decl.v]: done

**Comment by bgregoir** [comment]
Did we still have work to do before merging?
Or we can resolve conflict and merge?

**Comment by vbgl** [comment]
My comments above still need to be addressed.

File: proofs/compiler/riscv_lower_addressing_proof.v (hunk 4 above)
Comment (bgregoir) [reply proofs/compiler/riscv_lower_addressing_proof.v]: done

File: proofs/compiler/riscv_lower_addressing_proof.v (hunk 5 above)
Comment (bgregoir) [reply proofs/compiler/riscv_lower_addressing_proof.v:231]: done

File: proofs/compiler/riscv_lowering_proof.v (hunk 7 above)
Comment (bgregoir) [reply proofs/compiler/riscv_lowering_proof.v]: done

File: proofs/compiler/riscv_params.v (hunk 8 above)
Comment (bgregoir) [reply proofs/compiler/riscv_params.v]: done

File: proofs/compiler/riscv_params_common_proof.v (hunk 9 above)
Comment (bgregoir) [reply proofs/compiler/riscv_params_common_proof.v]: done

File: proofs/compiler/riscv_params_common_proof.v (hunk 10 above)
Comment (bgregoir) [reply proofs/compiler/riscv_params_common_proof.v]: done

File: proofs/compiler/riscv_params_core_proof.v (hunk 11 above)
Comment (bgregoir) [reply proofs/compiler/riscv_params_core_proof.v]: done

File: compiler/src/help.ml (hunk 1 above)
Comment (bgregoir) [reply compiler/src/help.ml:20]: I don't know how to solve this.

File: default.nix (hunk 2 above)
Comment (bgregoir) [reply default.nix:74]: @eponier ?

Comment (eponier) [reply default.nix]: No, it was a temp hack. Removed.

File: proofs/compiler/riscv_lower_addressing_proof.v (hunk 6 above)
Comment (eponier) [reply proofs/compiler/riscv_lower_addressing_proof.v:394]: done

**Review by vbgl — DISMISSED** [review]
Can I squash all these commits into a single one?

**Comment by clebreto** [comment]
> Can I squash all these commits into a single one?

Fine with me.

**Review by vbgl — APPROVED** [review]
